US08217063B2
2-[4-(Methoxycarbonyl)benzyl]-4-[4-(methoxycarbonyl)phenyl]butanoic acid
At room temperature, a solution of 37.2 ml (267 mmol) of triethylamine and 7.6 ml (202 mmol) of formic acid in 100 ml of dioxane is added to a solution of 40 g (80.9 mmol) of diallyl 2-[4-(methoxycarbonyl)benzyl]-2-{2-[4-(methoxycarbonyl)phenyl]ethyl}malonate, 1.49 g (5.67 mmol) of triphenylphosphine and 363 mg of palladium acetate in 500 ml of dioxane. The reaction mixture is then stirred at 110° C. overnight. After the reaction has gone to completion, the reaction solution is cooled and the solvent is removed under reduced pressure. The residue obtained is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1). This gives 20.98 g (56.6 mmol, 70% of theory) of a colorless solid.

reactant | triethylamine | 267 mmol, 37.2 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 202 mmol, 7.6 ml | C(=O)O | CH2O2
reactant | diallyl 2-[4-(methoxycarbonyl)benzyl]-2-{2-[4-(methoxycarbonyl)phenyl]ethyl}malonate | 80.9 mmol, 40 g | COC(=O)C1=CC=C(CC(C(=O)OCC=C)(C(=O)OCC=C)CCC2=CC=C(C=C2)C(=O)OC)C=C1 | C28H30O8
reactant | triphenylphosphine | 5.67 mmol, 1.49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 363 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[4-(Methoxycarbonyl)benzyl]-4-[4-(methoxycarbonyl)phenyl]butanoic acid | COC(=O)C1=CC=C(CC(C(=O)O)CCC2=CC=C(C=C2)C(=O)OC)C=C1 | C21H22O6
